US09375010B2
To a solution of (2Z)-(hydroxyimino)(phenyl)acetonitrile (6.0 g, 41.1 mmol, 1 eq.) in 80 ml of acetonitrile and 10 ml of DMF, was added 2-bromo-6-(bromomethyl)pyridine (10.3 g, 41.1 mmol, 1.0 eq.) followed by potassium iodide (681 mg, 4.11 mmol, 0.1 eq.) and caesium carbonate (20.1 g, 61.1 mmol, 1.5 eq.). The reaction was stirred 4 h at room temperature. The solvent was then evaporated and the residue dissolved in EtOAc, subsequently washed with H2O and brine. After separation, the organic phase was dried over MgSO4 and concentrated. The residue was purified by chromatography on silica gel to give (2Z)-{[(6-bromopyridin-2-yl)methoxy]imino}(phenyl)acetonitrile (11.3 g, 86% yield) as a white solid.

reactant | (2Z)-(hydroxyimino)(phenyl)acetonitrile | 41.1 mmol, 6.0 g, 1 eq. | O\N=C(/C#N)\C1=CC=CC=C1 | C8H6N2O
reactant | 2-bromo-6-(bromomethyl)pyridine | 41.1 mmol, 10.3 g, 1.0 eq. | BrC1=NC(=CC=C1)CBr | C6H5Br2N
reactant | potassium iodide | 4.11 mmol, 681 mg, 0.1 eq. | [I-].[K+]
reactant | caesium carbonate | 61.1 mmol, 20.1 g, 1.5 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (2Z)-{[(6-bromopyridin-2-yl)methoxy]imino}(phenyl)acetonitrile | 11.3 g, 86% yield | BrC1=CC=CC(=N1)CO\N=C(/C#N)\C1=CC=CC=C1 | C14H10BrN3O
